US07919630B2
3-Allyl-5-benzylidene-2-thiohydantoin
A flask equipped with a magnetic stirrer, condenser, and nitrogen pressure was charged with 3-allylthiohydantoin (15 g, 0.096 mol), water (90 mL), and benzaldehyde (10.2 g, 0.096 mol). As the mixture was stirred, triethylamine (19.4 g, 0.192 mol) was added slowly. After 18 hr, HPLC analysis indicated the absence of starting material, and the mixture was transferred to an Erlenmeyer flask. The mixture was stirred vigorously as 3 M hydrochloric acid was added dropwise until the pH reached 3 (65 mL). The mixture was stirred for an additional 90 min, and then the solid that had formed was collected by filtration. The still wet solid was resuspended in 100 mL of water, stirred for 30 min, and collected. After air drying, the orange solid weighed 18.4 g (79%). HPLC analysis indicated a purity of 95% at 215 nm. NMR (CDCl3) δ 9.3 (bs, 1H), 7.4 (s, 5H), 6.8 (s, 1H), 5.1-6.3 (m, 3H), 4.6 (d, 2H).

reactant | 3-allylthiohydantoin | 0.096 mol, 15 g | C(C=C)N1C(NCC1=O)=S | C6H8N2OS
reactant | benzaldehyde | 0.096 mol, 10.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 0.192 mol, 19.4 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | water | 90 mL | O | H2O
product | 3-Allyl-5-benzylidene-2-thiohydantoin | C(C=C)N1C(NC(C1=O)=CC1=CC=CC=C1)=S | C13H12N2OS
